US07737145B2
A Schlenk Flask was charged with tetrakis(triphenylphosphine)palladium(0) (0.42 g, 0.37 mmol), nitrogen, THF (20 ML), 2-(4-iodophenyl)oxazole (1 g, 3.7 mmol), and 4-methoxybenzyl zinc chloride (0.5 M in THF, 9.6 mL, 4.8 mmol). After 3 hours, the filtrate was concentrated. The resulting solid was treated with a mixture of ethyl acetate and a dilute aqueous ammonium chloride solution. The mixture was filtered and the organic layer was dried and concentrated. Purification on silica gel using a gradient of dichloromethane in hexane gave 0.8 g of 2-[4-[(4-methoxyphenyl)methyl]phenyl]oxazole, 1H NMR (400 MHz, CDCl3) δ 7.97 (d, 2H), 7.68 (s, 1H), 7.27 (d, 2H), 7.22 (s, 1H), 7.13 (d, 2H), 6.82 (d, 2H), 3.96 (s, 2H), 3.78 (s, 3H).

reactant | 2-(4-iodophenyl)oxazole | 3.7 mmol, 1 g | IC1=CC=C(C=C1)C=1OC=CN1 | C9H6INO
reactant | 4-methoxybenzyl zinc chloride | 4.8 mmol, 0.5 M, 9.6 mL | [Cl-].COC1=CC=C(C[Zn+])C=C1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.37 mmol, 0.42 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | C1CCOC1 | C4H8O
product | 2-[4-[(4-methoxyphenyl)methyl]phenyl]oxazole | 0.8 g | COC1=CC=C(C=C1)CC1=CC=C(C=C1)C=1OC=CN1 | C17H15NO2
